US05126344
5-Nitro-2-[2-(trimethylsilyl)ethoxy]pyridine (36.8 g) was dissolved in ethanol (270 ml) and catalytically hydrogenated at atmospheric pressure over platinum oxide (300 mg). The catalyst was removed by filtration through diatomaceous earth. The solvent was removed by evaporation and the residue triturated with hexane to give 5-amino-2-[2-(trimethylsilyl)ethoxy]pyridine (20.0 g), as dark crystals, m.p. 59°-61° C.; NMR: 0.0(s,9H), 0.95-1.05(m,2H), 3.1-3.3(br s, 2H), 4.2-4.3(m,2H), 6.5(d,1H), 6.95(dd,1H), 7.6(d,1H).

reactant | 5-Nitro-2-[2-(trimethylsilyl)ethoxy]pyridine | 36.8 g | [N+](=O)([O-])C=1C=CC(=NC1)OCC[Si](C)(C)C | C10H16N2O3Si
solvent | ethanol | 270 ml | C(C)O | C2H6O
catalyst | platinum oxide | 300 mg | [Pt]=O
product | 5-amino-2-[2-(trimethylsilyl)ethoxy]pyridine | 20.0 g | NC=1C=CC(=NC1)OCC[Si](C)(C)C | C10H18N2OSi
